US05217976
Concentrated aqueous ammonia solution (d 0.88 ) was added dropwise to a solution of ethyl 5,7-diethyl-2-oxo-1-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,2-dihydro-1,6-naphthyridin-3-carboxylate (600 mg) in a mixture of methanol (7 ml) and dichloromethane (1.5 ml) until the solution became cloudy. Dichloromethane (2 ml) was added to give a clear solution and the mixture was stirred for 3 days. Volatile material was then removed by evaporation to give 5,7-diethyl-2-oxo-1-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,2-dihydro-1,6-naphthyridin-3-carboxamide as a solid (500 mg), which was used without further purification or characterisation.

reactant | ammonia | N | H3N
reactant | ethyl 5,7-diethyl-2-oxo-1-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,2-dihydro-1,6-naphthyridin-3-carboxylate | 600 mg | C(C)C1=C2C=C(C(N(C2=CC(=N1)CC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)OCC | C48H42N6O3
solvent | methanol | 7 ml | CO | CH4O
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5,7-diethyl-2-oxo-1-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,2-dihydro-1,6-naphthyridin-3-carboxamide | 500 mg | C(C)C1=C2C=C(C(N(C2=CC(=N1)CC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N | C46H39N7O2
